US07868001B2
A solution of tert-butyl 3-(imidazo[1,2-b]pyridazin-2-yl)phenylcarbamate (1 mmol) and TFA (4 mmol) in CH2Cl2 (10 ml) was stirred at 35° C. overnight. Then 1 M NaOH (4 ml) was added, and the mixture was extracted with EtOAc. The organic layer was concentrated to give 3-(imidazo[1,2-b]pyridazin-2-yl)aniline with a yield of 75%.

reactant | tert-butyl 3-(imidazo[1,2-b]pyridazin-2-yl)phenylcarbamate | 1 mmol | N=1C(=CN2N=CC=CC21)C=2C=C(C=CC2)NC(OC(C)(C)C)=O | C17H18N4O2
reactant | TFA | 4 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1 M, 4 ml | [OH-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(imidazo[1,2-b]pyridazin-2-yl)aniline | yield of 75% | N=1C(=CN2N=CC=CC21)C=2C=C(N)C=CC2 | C12H10N4
